US06465467B1
Step 1: 2-(1,3-Benzoxazol-4-yloxy)ethanol.
K2CO3 (254 mg, 1.84 mmol) was added to a stirred solution of 4-hydroxybenzoxazole* (248 mg, 1.84 mmol) in DMF (5 mL) at room temperature. The mixture was heated at 90° C. for 15 min and ethylene carbonate (176 mg, 2.00 mmol) was added. The mixture was stirred at 150° C. for 2 h and allowed to attain room temperature. The mixture was diluted with water (2 mL) and MeOH (2 mL), and concentrated. The residue was partitioned between water and CH2Cl2. The aqueous layer was separated and extracted with CH2Cl2 (2×10 mL). The organic phases were pooled and washed with water and brine, and dried over MgSO4. The filtrate was concentrated to give the product as a brown oil that slowly solidified: yield 278 mg (84%); mp 47-49° C. Anal. (C9H9NO3) C, H, N.

reactant | K2CO3 | 1.84 mmol, 254 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-hydroxybenzoxazole | OC1=CC=CC2=C1N=CO2 | C7H5NO2
reactant | ethylene carbonate | 2.00 mmol, 176 mg | C1(OCCO1)=O | C3H4O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | 2-(1,3-Benzoxazol-4-yloxy)ethanol | O1C=NC2=C1C=CC=C2OCCO | C9H9NO3
